US06495528B1
Intermediate A: 2-Bromohypoxanthine
This compound is prepared from 2-thioxanthine** through oxidation of the mercapto group by bromine and in situ displacement by hydrobromine. For reference on the oxidation and displacement, see Beaman, A. G.; Gerster, J. F.; Robins, R. K, J. Org. Chem, 1962, 27, 986.1.

reactant | 2-thioxanthine | N1C(=S)NC=2N=CNC2C1=O | C5H4N4OS
reactant | bromine | BrBr | Br2
product | 2-Bromohypoxanthine | BrC=1NC(C=2NC=NC2N1)=O | C5H3BrN4O
